US20010020024A1
(i) Methyl 2-chloro4-{N-[1-(S)-phenyl-2-(3-(S)-tetrahydropyran-2-yloxypyrrolidin-1-yl )-ethyl]-N-methylamino}benzoate
This was prepared from 2-(R)-phenyl-2-(3-(S)-tetrahydropyran-2-yloxypyrrolidin-1-yl) ethanol and 1-(S)-phenyl-2-(3-(S)-tetrahydropyran-2-yloxypyrrolidin-1-yl)ethanol and methyl 2-chloro-4- methylaminobenzoate in 40% yield according to a procedure similar to that described in Example 1 (i).

reactant | 2-(R)-phenyl-2-(3-(S)-tetrahydropyran-2-yloxypyrrolidin-1-yl) ethanol | C1(=CC=CC=C1)[C@H](CO)N1C[C@H](CC1)OC1OCCCC1 | C17H25NO3
reactant | 1-(S)-phenyl-2-(3-(S)-tetrahydropyran-2-yloxypyrrolidin-1-yl)ethanol | C1(=CC=CC=C1)[C@@H](CN1C[C@H](CC1)OC1OCCCC1)O | C17H25NO3
reactant | methyl 2-chloro-4- methylaminobenzoate | ClC1=C(C(=O)OC)C=CC(=C1)NC | C9H10ClNO2
product | Methyl 2-chloro4-{N-[1-(S)-phenyl-2-(3-(S)-tetrahydropyran-2-yloxypyrrolidin-1-yl )-ethyl]-N-methylamino}benzoate | 40% yield | ClC1=C(C(=O)OC)C=CC(=C1)N(C)[C@H](CN1C[C@H](CC1)OC1OCCCC1)C1=CC=CC=C1 | C26H33ClN2O4
